US09238639B2
B) 6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-amine
The mixture of 6-((2,4-dichlorobenzyl)oxy)-N-methoxy-1-benzofuran-3(2H)-imine (1.23 g) and THF (dry) (36 mL) was added dropwise to a solution of borane tetrahydrofuran complex solution (1.0 mol/L, 7.27 mL) at 0° C. The mixture was stirred at 60° C. overnight. After cooling, the mixture was quenched with water and 1N NaOH (15 mL). The mixture was stirred at 60° C. for 5 h. After cooling, the mixture was extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The solid was dissolved in EtOAc and to the solution was added 4M HCl in EtOAc dropwise. The precipitate (850 mg) was collected by filtration. The solid was dissolved in 28% aqueous ammonia and extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo to give the title compound (721.3 mg).

reactant | 6-((2,4-dichlorobenzyl)oxy)-N-methoxy-1-benzofuran-3(2H)-imine | 1.23 g | ClC1=C(COC2=CC3=C(C(CO3)=NOC)C=C2)C=CC(=C1)Cl | C16H13Cl2NO3
solvent | THF | 36 mL | C1CCOC1 | C4H8O
product | 6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-amine | 721.3 mg | ClC1=C(COC2=CC3=C(C(CO3)N)C=C2)C=CC(=C1)Cl | C15H13Cl2NO2
